US09403846B2
Step 1: Synthesis of (1R,2R)—N-methoxy-N,2-dimethylcyclopropanecarboxamide (C79)
To a solution of (1R,2R)-2-methylcyclopropanecarboxylic acid (44 g, 0.44 mol) in dichloromethane (600 mL) was added 1,1′-carbonyldiimidazole (79 g, 0.45 mol) portion-wise at 20° C. The reaction was stirred at 25° C. for 2 hours. N,O-Dimethylhydroxylamine hydrochloride (52 g, 0.53 mol) was added portion-wise and stirring was continued at 25° C. for 16 hours. The reaction mixture was washed with water (100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography (Gradient: 2% to 20% ethyl acetate in petroleum ether) provided the product as a colorless oil. Yield: 52 g, 363 mmol, 82%. 1H NMR (400 MHz, CDCl3) δ 3.74 (s, 3H), 3.19 (s, 3H), 1.80-1.86 (m, 1H), 1.30-1.38 (m, 1H), 1.17 (dt, J=8.5, 4.3 Hz, 1H), 1.12 (d, J=6 Hz, 3H), 0.64 (ddd, J=8.2, 6.1, 3.8 Hz, 1H).

reactant | (1R,2R)-2-methylcyclopropanecarboxylic acid | 0.44 mol, 44 g | C[C@H]1[C@@H](C1)C(=O)O | C5H8O2
reactant | 1,1′-carbonyldiimidazole | 0.45 mol, 79 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-Dimethylhydroxylamine hydrochloride | 0.53 mol, 52 g | Cl.CNOC
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | (1R,2R)—N-methoxy-N,2-dimethylcyclopropanecarboxamide | CON(C(=O)[C@H]1[C@@H](C1)C)C | C7H13NO2
